US06921828B2
2,3-Dichloro-5-trifluoromethylpyridine (800 g) was added to a stirred mixture of anhydrous potassium fluoride (320 g) and anhydrous dimethylsulphoxide at 110° C. then heated at 120° C. for 2 hours and fractionally distilled under reduced pressure to give 3-chloro-2-fluoro-5-trifluoromethylpyridine (685 g) in a yield of 92% (98% purity).

reactant | 2,3-Dichloro-5-trifluoromethylpyridine | 800 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | potassium fluoride | 320 g | [F-].[K+]
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 3-chloro-2-fluoro-5-trifluoromethylpyridine | 685 g, yield of 92% | ClC=1C(=NC=C(C1)C(F)(F)F)F | C6H2ClF4N
